US05508266
Into a stirred solution of N-[2-(t-butoxycarbonylamino)-2-methyl-1-oxopropyl]-L-tyrosine ethyl ester (1.46 g, 3.70 mmol) in ethyl acetate (50 mL) and methanol (10 mL) is bubbled hydrochloric acid gas for 10 minutes. The solvent is removed to give N-(2-amino-2-methyl-1-oxopropyl)-L-tyrosine ethyl ester monohydrochloride as a white foam which is used without any further purification.

reactant | N-[2-(t-butoxycarbonylamino)-2-methyl-1-oxopropyl]-L-tyrosine ethyl ester | 3.70 mmol, 1.46 g | C(C)OC([C@@H](NC(C(C)(C)NC(=O)OC(C)(C)C)=O)CC1=CC=C(C=C1)O)=O | C20H30N2O6
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | N-(2-amino-2-methyl-1-oxopropyl)-L-tyrosine ethyl ester monohydrochloride | Cl.C(C)OC([C@@H](NC(C(C)(C)N)=O)CC1=CC=C(C=C1)O)=O | InChI=1S/C15H22N2O4.ClH/c1-4-21-13(19)12(17-14(20)15(2,3)16)9-10-5-7-11(18)8-6-10;/h5-8,12,18H,4,9,16H2,1-3H3,(H,17,20);1H/t12-;/m0./s1
